US09145441B2
Compound 84e. (S)-1-{(S)-2-[(S)-3-Methyl-2-(3-methyl-2-oxo-3-vinyl-pyrrolidin-1-yl)-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide
A solution of (S)-1-((S)-2-{(S)-2-[2-(2-hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyrylamino}-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide (186.4 mg, 0.282 mmol) and 4-dimethylaminopyridine (206.7 mg, 1.692 mmol) in dichloromethane (20 mL) was treated with para-toluenesulfonyl chloride (161.6 mg, 0.848 mmol). After stirring at room temperature for 2.5 h, more 4-dimethylaminopyridine (206.7 mg, 1.692 mmol) and para-toluenesulfonyl chloride (161.6 mg, 0.848 mmol) were added. After stirring at room temperature for 1.5 h, the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 20 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/acetone 1:0 to 3:2 to afford the title compound (77.0 mg, 42%) as a colourless gum and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 643.1 [M+H], Tr=1.90 min and LCMS (m/z) 643.1 [M+H], Tr=1.99 min.

reactant | (S)-1-((S)-2-{(S)-2-[2-(2-hydroxy-ethyl)-2-methyl-but-3-enoylamino]-3-methyl-butyrylamino}-propionyl)-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 0.282 mmol, 186.4 mg | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(C(C=C)(C)CCO)=O)=O)=O | C31H43BrN6O5
reactant | para-toluenesulfonyl chloride | 0.848 mmol, 161.6 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | para-toluenesulfonyl chloride | 0.848 mmol, 161.6 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
catalyst | 4-dimethylaminopyridine | 1.692 mmol, 206.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.692 mmol, 206.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | (S)-1-{(S)-2-[(S)-3-Methyl-2-(3-methyl-2-oxo-3-vinyl-pyrrolidin-1-yl)-butyrylamino]-propionyl}-hexahydro-pyridazine-3-carboxylic acid [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-amide | 77.0 mg, 42% | BrC1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)N1C(C(CC1)(C=C)C)=O)=O)=O | C31H41BrN6O4
